US07714010B2
b) 7,7-Dimethyl-5-((E)-pent-2-enyl)-2-phenethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
N-[3,3-Dimethyl-6-nitro-2-oxo-1-((E)-pent-2-enyl)-2,3-dihydro-1H-indol-5-yl]-3-phenyl-propionamide (470 mg) is dissolved in acetic acid (7 ml) and iron powder (470 mg; 8.42 mmol) is added. The mixture is heated and irradiated in a microwave apparatus (150° C., 15 min) and afterwards cooled to RT. Aqueous work-up as described in Example 3b gives the desired compound (344 mg).

reactant | N-[3,3-Dimethyl-6-nitro-2-oxo-1-((E)-pent-2-enyl)-2,3-dihydro-1H-indol-5-yl]-3-phenyl-propionamide | 470 mg | CC1(C(N(C2=CC(=C(C=C12)NC(CCC1=CC=CC=C1)=O)[N+](=O)[O-])C\C=C\CC)=O)C | C24H27N3O4
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 8.42 mmol, 470 mg | [Fe] | Fe
product | 7,7-Dimethyl-5-((E)-pent-2-enyl)-2-phenethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 344 mg | CC1(C(N(C=2C=C3C(=CC12)NC(=N3)CCC3=CC=CC=C3)C\C=C\CC)=O)C | C24H27N3O
